US09428465B2
Step 1. Preparation of 5-morpholino-1H-pyrimidine-2,4-dione
The title compound was obtained according to the procedure described for the synthesis of Example 10 (Step1), starting from 5-bromouracil (0.10 g, 052 mmol) and 20 equivalents of morpholine. The crude was purified by precipitation in acidic water (10 mL, pH 5) to afford the title compound (0.08 g, 76%) as white, powder. 1H NMR (400 MHz, DMSO-d6): δ 2.74-2.84 (m, 4H), 3.64 (t, J=4.6 Hz, 4H), 6.72 (s, 1H), 10.47 (s, 1H), 11.05 (s, 1H).

reactant | 5-bromouracil | 0.10 g | BrC=1C(NC(NC1)=O)=O | C4H3BrN2O2
reactant | morpholine | 20 equivalents | N1CCOCC1 | C4H9NO
product | 5-morpholino-1H-pyrimidine-2,4-dione | 0.08 g, 76% | O1CCN(CC1)C=1C(NC(NC1)=O)=O | C8H11N3O3
